US07718657B2
Methyl 4-(4-(3-(6-methylpyridin-3-yl)ureido)-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate.
To a room temperature solution of Methyl 4-(4-amino-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate (175 mg, 0.635 mmol, 1.0 equiv) and triethylamine (90 μL, 0.635 mmol, 1.0 equiv) in dry DCM (1.7 mL) was added freshly filtered 2-methyl-5-isocyanatopyridine (94 mg, 0.699 mmol, 1.1 equiv) in dry DCM (1.7 mL) dropwise via cannula. After 1 h, the reaction was diluted with DCM and washed with water and with brine. The resulting solution was dried over sodium sulfate, filtered, and concentrated in vacuo. The solid was dissolved in a minimal volume of DMF and water was added to precipitate the product. The resulting solid was filtered, washed three times with water and twice with hexane to provide the title compound as a light brown solid (133 mg, 51%). LCMS [M+H]+=410.1.

reactant | Methyl 4-(4-amino-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate | 0.635 mmol, 175 mg, 1.0 equiv | NC1=C2CCC(C2=CC=C1)N1CCN(CC1)C(=O)OC | C15H21N3O2
reactant | triethylamine | 0.635 mmol, 90 μL, 1.0 equiv | C(C)N(CC)CC | C6H15N
reactant | 2-methyl-5-isocyanatopyridine | 0.699 mmol, 94 mg, 1.1 equiv | CC1=NC=C(C=C1)N=C=O | C7H6N2O
solvent | DCM | 1.7 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1.7 mL | C(Cl)Cl | CH2Cl2
product | Methyl 4-(4-(3-(6-methylpyridin-3-yl)ureido)-2,3-dihydro-1H-inden-1-yl)piperazine-1-carboxylate | 133 mg, 51% | CC1=CC=C(C=N1)NC(NC1=C2CCC(C2=CC=C1)N1CCN(CC1)C(=O)OC)=O | C22H27N5O3
